* NMOS Amplifier Circuit

VDD 5 0 DC 1.8
RD 5 2 1k
M1 2 1 3 3 NMOS L=0.18u W=10u
VIN 1 0 DC 0

* Model Parameters
.model NMOS NMOS(Level=1)

* Simulation Commands
*.op
.end